US07576072B2
Step A: Preparation of 6-bromo-5-methyl-3H-imidazo[4,5-b]pyridine 4-oxide:
To a solution of 6-bromo-5-methyl-3H-imidazo[4,5-b]pyridine (1.00 equivalent) (Graboyes et al J. Am. Chem. Soc. 1957, 79, 6421-6426) in CH2Cl2 is added m-CPBA (1.50 equivalents). The resulting solution is stirred at room temperature for 16 hours. The precipitate is filtered off, washed with ether, and dried in vacuo to afford the desired product. The product is purified by re-crystallization if further purification is necessary.

reactant | 6-bromo-5-methyl-3H-imidazo[4,5-b]pyridine | 1.00 equivalent | BrC=1C=C2C(=NC1C)NC=N2 | C7H6BrN3
reactant | m-CPBA | 1.50 equivalents | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-bromo-5-methyl-3H-imidazo[4,5-b]pyridine 4-oxide | BrC=1C=C2C(=[N+](C1C)[O-])NC=N2 | C7H6BrN3O
